US06960575B2
(2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionic acid (Compound No. 13-1)
A 4 N aqueous sodium hydroxide solution (7.2 ml) is added to a solution of methyl (2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionate (4.60 g, Compound No. 1-48) in ethanol (30 ml), and the mixture is stirred for 4.5 hours. The reaction mixture is washed with ether, then 2 N hydrochloric acid is added to the reaction mixture to acidify the system, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled compound (4.46 g).

reactant | sodium hydroxide | 4 N, 7.2 ml | [OH-].[Na+]
reactant | methyl (2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionate | 4.60 g | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(=O)OC)CC1=CC=CC=C1)=O)C(C)C | C27H31N3O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropionic acid | 4.46 g | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(=O)O)CC1=CC=CC=C1)=O)C(C)C | C26H29N3O5
